US05849764
Step 11D {2-[2-(3,5-dichlorophenyl)-5-diethylcarbamoyl-1H-indol-3-yl]ethyl}-(4-pyridin-3-yl-butyl)carbamic acid tert-butyl ester
To a suspension of 3-{2-[tert-butoxycarbonyl-(4-pyridin-3-yl-butyl)amino]ethyl}-2-(3,5-dichlorophenyl)-1H-indole-5-carboxylic acid (63 mg in 6 mL methylene chloride) was added 24.2 mg 1-hydroxybenzotriazole followed by 26.7 mg 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and the mixture stirred at room temperature. After 30 minutes, 0.06 mL of diethylamine was added and the mixture stirred at room temperature for 16 hours. The reaction was then concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride:methanol, 95:5) to give the title compound (63 mg).

reactant | 3-{2-[tert-butoxycarbonyl-(4-pyridin-3-yl-butyl)amino]ethyl}-2-(3,5-dichlorophenyl)-1H-indole-5-carboxylic acid | 6 mL, 63 mg | C(C)(C)(C)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC(=C1)Cl)Cl)CCCCC=1C=NC=CC1 | C31H33Cl2N3O4
reactant | 1-hydroxybenzotriazole | 24.2 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 26.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | diethylamine | 0.06 mL | C(C)NCC | C4H11N
product | {2-[2-(3,5-dichlorophenyl)-5-diethylcarbamoyl-1H-indol-3-yl]ethyl}-(4-pyridin-3-yl-butyl)carbamic acid tert-butyl ester | 63 mg | C(C)(C)(C)OC(N(CCCCC=1C=NC=CC1)CCC1=C(NC2=CC=C(C=C12)C(N(CC)CC)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C35H42Cl2N4O3
